US04925867
Trifluoroacetic anhydride (1.8 ml, 2.6 g, 12.7 mmol) was added dropwise to a solution of dimethylsulphoxide (1 ml, 1.1 g, 16.2 mmol) in dichloromethane (40 ml) at -78° C. After 10 min 1-Benzyloxy-4-ethyl-3-hydroxypyrrolidin-2-one (0.94 g, 4 mmol) in dichloromethane (8 ml) was added, the mixture stirred for 30 min, then ethyldiiscpropylamine (4.5 ml, 3.4 g, 26.3 mmol) added. After 45 min methanol (1 ml) was added and the solution brought to room temperature. Water was added and the mixture extracted with ether (3×75 ml). The combined organic layers were washed with brine, dried (MgSO4), evaporated in vacuo, and the residue dissolved in methanol (10 ml). 4-Methoxybenzylamine (1.1 ml) was added and the solution kept at room temperature overnight. The solvent was then removed in vacuo, and the product purified by flash chromatography, eluting with light petroleum:ethyl acetate (5:2 v/v) to give 1-benzyloxy-4-ethyl-3-(4-methoxybenzylamino)-2-oxo-2,5-dihydropyrrole as an oil (0.74 g, 55%). 1H NMR (250 MHz, CDCl3) δ7.4-7.5 (5 H, m, ph), 7.22 (2 H, d, J=9 Hz, MeOCCH), 6.85 (2 H, d, J=9 Hz, MeCCHCH), 5.02 (2 H, s, OCH2), 4.32 (2 H, s, CH2NH), 3.78 (3 H, s, OMe), 3.60 (2 H, s, CH2NO), 2.22 (2 H, q, J= 7 Hz, CH2CH3), 0.93 (3 H, t, J=7 Hz, CH3), m/z 353 (M+ +H).

reactant | Trifluoroacetic anhydride | 12.7 mmol, 1.8 ml, 2.6 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | dimethylsulphoxide | 16.2 mmol, 1 ml, 1.1 g | CS(=O)C | C2H6OS
reactant | 1-Benzyloxy-4-ethyl-3-hydroxypyrrolidin-2-one | 4 mmol, 0.94 g | C(C1=CC=CC=C1)ON1C(C(C(C1)CC)O)=O | C13H17NO3
reactant | methanol | 1 ml | CO | CH4O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 1-benzyloxy-4-ethyl-3-(4-methoxybenzylamino)-2-oxo-2,5-dihydropyrrole | 0.74 g, 55% | C(C1=CC=CC=C1)ON1C(C(=C(C1)CC)NCC1=CC=C(C=C1)OC)=O | C21H24N2O3
